* Z:\mnt\spice-netlists\LTC4120_Parallel.asc
V1 N012 0 PWL(0 0 10u 5)
R1 N015 N022 1K
R2 N016 N021 1K
D1 0 N021 BZX84C15L
D2 0 N022 BZX84C15L
M§Q1 N015 N021 0 0 Si4470DY
M§Q2 N016 N022 0 0 Si4470DY
C1 N016 N021 10n
C2 N015 N022 10n
D3 N021 N016 BAT54
D4 N022 N015 BAT54
C3 N015 N016 150n
L1 N016 N015 5.0µ
L2 N013 0 48.6µ
D5 N014 N002 BAT54
D6 0 N014 BAT54
D7 N005 N002 BAT54
C4 N005 N013 4.7n
C5 N013 N014 22n
R3 N002 N007 470K
R4 N002 N008 470K
C6 0 N017 2.2µ
R5 N025 0 3.01K
R6 N023 N024 1.35Meg
R7 BAT N023 1.01Meg
C7 N018 N019 .022µ
C8 BAT 0 22µ x2
XU1 N017 N018 N002 N019 0 N005 0 N020 BAT N023 N024 0 N025 N007 N008 N002 LTC4120 Ttime_out=2m
L3 N020 N019 33µ
C9 N002 0 10µ x2
C10 N001 0 2.2µ
R8 N011 0 3.01K
R9 N009 N010 1.35Meg
R10 BAT N009 1.01Meg
C11 N003 N004 .022µ
XU2 N001 N003 N002 N004 0 N005 N001 N006 BAT N009 N010 0 N011 N007 N008 N002 LTC4120 Ttime_out=2m
L4 N006 N004 33µ
L5 N015 N012 68µ
L6 N012 N016 68µ
C12 N013 N014 4.7n
C13 N005 N013 1.5n
C14 N015 N016 100n
C15 N015 N016 33n
C16 N012 0 22µ
C§Battery BAT 0 3m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 .19
.tran 15m startup
* LTC4120 - Wireless Power Receiver and 400mA Buck Battery Charger\nWireless Power Receiver with 800mA Buck Battery Charger\nInput1: VTX=5V+/- 5%, 1A,     Output: BAT 4.2V Float @ 800mA
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
* Receiver\nResonant\nTank
* Transmitter
* Receiver
* F_TX = 1/(2*pi*sqrt(283n*5u)) = 133.8kHz
* F_T=1/(2*pi*sqrt(48.6u*(C2P+C2S)) = 125.9k\nF_D=1/(2*pi*sqrt(48.6u*(C2S)) = 139.7k\nC2S = 22n + 4.7n\nC2P = 4.7n + 1.5n
* Transmitter\nResonant\nTank
* Coupling coefficient\nK1= 0.19 to 0.35\nfor spacing of 10mm to 1mm
.lib LTC4120.sub
.backanno
.end
